US07985769B2
A solution of 4-[(2-Carboxy-5-phenyl-thiophen-3-yl)-(2,4-dichloro-benzoyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester (240 mg, 0.42 mmol) in dioxane (4 ml) at 21° C. under nitrogen was treated with anhydrous 4M HCl (3 ml, 12.6 mmol, 30 eq). After 4 h the reaction was stripped off solvent and the residue triturated with ether to give 3-[(2,4-Dichloro-benzoyl)-piperidin-4-yl-amino]-5-phenyl-thiophene-2-carboxylic acid as a pale yellow powder (214 mg, 100%) 1H NMR (Acetone, 400 MHz) 7.76-7.73 (m, 2H), 7.64 (s, 1H), 7.45-7.38 (m, 3H), 7.30 (bs, 1H), 7.28-7.24 (m, 1H), 4.93-4.84 (m, 1H), 3.56-3.49 (m, 2H), 3.25-3.14 (m, 2H), 3.05-2.55 (bs, 1H), 2.50-2.37 (m, 2H), 2.13-1.83 (m, 1H).

reactant | 4-[(2-Carboxy-5-phenyl-thiophen-3-yl)-(2,4-dichloro-benzoyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | 0.42 mmol, 240 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C(C1=C(C=C(C=C1)Cl)Cl)=O)C1=C(SC(=C1)C1=CC=CC=C1)C(=O)O | C28H28Cl2N2O5S
reactant | HCl | 12.6 mmol, 4M, 3 ml, 30 eq | Cl | ClH
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | 3-[(2,4-Dichloro-benzoyl)-piperidin-4-yl-amino]-5-phenyl-thiophene-2-carboxylic acid | 214 mg, 100% | ClC1=C(C(=O)N(C2=C(SC(=C2)C2=CC=CC=C2)C(=O)O)C2CCNCC2)C=CC(=C1)Cl | C23H20Cl2N2O3S
